US08536337B2
Preparation of mixture of (7aS,2′S)/(7aR,2′S)-isomers of 2-oxoclopidogrel
In a four necked round bottomed flask, under nitrogen atmosphere, 1000 ml acetonitrile, 49.5 gm of 5,6,7,7a-tetrahydro-4H-thieno[3,2-c]pyridin-2-one HCl, 55 gm of sodium carbonate and 100 gm of Methyl (7)-2-(4-nitrophenylsulfonyloxy)-2(2-chlorophenyl)acetate were added and the mixture was heated to about 50° C. After reaction, reaction mass was filtered, filtrate concentrated and concentrated mass was taken in dichloromethane, washed with water and concentrated under reduced pressure. The oily residue was treated with IPA.HCl solution in isopropanol (IPA) and filtered to obtain the mixture of isomers as hydrochloride salt. To it sodium bicarbonate solution was added till pH turned alkaline. The product was then extracted in dichloromethane (MDC). The MDC layer was washed with water, dried and distilled to obtain the product as an oily residue.

reactant | 5,6,7,7a-tetrahydro-4H-thieno[3,2-c]pyridin-2-one HCl | 49.5 gm | Cl.S1C(C=C2CNCCC21)=O
reactant | sodium carbonate | 55 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetonitrile | 1000 ml | C(C)#N | C2H3N
product | 2-oxoclopidogrel | C=1C=CC(=C(C1)[C@@H](C(=O)O)N2CCC(/C(=C/C(=O)O)/C2)S)Cl | C15H16ClNO4S
